US04370459
3,3-Bis(2-Ethyl Butanoylperoxy)Pentane (KP-F)
In a 250 ml round bottom flask equipped with a stirring motor and thermometer is placed 12.17 g of potassium hydroxide pellets (0.1875 moles, 86.4% pure), and 16.3 g of water (0.997 total moles of water added, including the water contained in the KOH pellets). The solution is cooled to about 5° C. then 17.42 g (0.075 moles, 58.55% pure) of diethyl ketone hydroperoxide monomer is added slowly. A solid forms and stirring is difficult. Petroleum ether (25 ml) is added to aid the stirring. Following completion of the monomer addition, the solution is cooled to about 0° C. and 19.67 g (0.1463 moles) of 2-ethyl butanoyl chloride is slowly added. Care must be taken to prevent excessive temperature rise during acid chloride addition. After completion of the acid chloride addition, the reaction temperature is allowed to slowly rise to about +5° C. and stirring is maintained for 11/2 hours.

reactant | potassium hydroxide | 12.17 g | [OH-].[K+]
reactant | diethyl ketone hydroperoxide | 0.075 moles, 17.42 g | [O-]O.C(C)C(=O)CC
reactant | 2-ethyl butanoyl chloride | 0.1463 moles, 19.67 g | C(C)C(C(=O)Cl)CC | C6H11ClO
solvent | water | O | H2O
solvent | water | 16.3 g | O | H2O
product | 3,3-Bis(2-Ethyl Butanoylperoxy)Pentane | C(C)C(C(=O)OOC(CC)(CC)OOC(C(CC)CC)=O)CC | C17H32O6
